US04513005
(a) 2-(Cinnamyl sulphonylpropyloxy)tetrahydropyran
Cinnamylthiopropionic acid, m.p. 87° C., was prepared from cinnamyl bromide and mercaptopropionic acid and oxidised by the method described in Example 23(a) to cinnamylsulphonylpropionic acid, m.p. 160° C. This acid was reduced by addition to a stirred suspension of lithium aluminium hydride (2 equivalents) in tetrahydrofuran at -20° to -25° C. and the product formed isolated by ethyl acetate extraction to give cinnamyl 3-hydroxypropyl sulphone, m.p. 86° C. A solution of cinnamyl 3-hydroxylpropyl sulphone, para-toluene sulphonic acid (catalytic) and dihydropyran (2 equivalents) in dichloromethane was allowed to stand at room temperature for 24 hours, evaporated, and recrystallised from diethyl ether to give the title compound, m.p. about 45° C.

reactant | cinnamyl 3-hydroxylpropyl sulphone | OCCCS(=O)(=O)CC=CC1=CC=CC=C1 | C12H16O3S
reactant | para-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dihydropyran | 2 equivalents | O1CCCC=C1 | C5H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(Cinnamyl sulphonylpropyloxy)tetrahydropyran | C(C=CC1=CC=CC=C1)S(=O)(=O)CCCOC1OCCCC1 | C17H24O4S
